US07504513B2
5,6-Dimethoxybenzimidazole (470 mg, 2.64 mmol) was added to a suspension of NaH (60% in mineral oil, 112 mg, 2.8 mmol) in NMP (5 ml) at <5° C. The mixture was stirred for 20 min, then a solution of 2-chloro-4-phenylthiazole-5-carboxylic acid ethyl ester (589 mg, 2.2 mmol) in NMP (1.5 ml) was added over 2-3 min. The mixture was stirred 2.5 hrs at RT. Water (15 ml) was added and stirred for 20 min. Solid was collected by filtration to provide the product 2-(5,6-dimethoxy-benzoimidazol-1-yl)-4-phenylthiazole-5-carboxylic acid ethyl ester (753 mg. Yield 84%). 1H-NMR (300 MHz, CDCl3) 8.44(s, 1H); 7.87-7.90(m, 2H); 7.72(2, 1H); 7.44-7.49(m, 3H); 7.30(s, 1H); 4.32(q, J=Hz, 2H); 3.98(s, 3H); 3.97(s, 3H); 1.33(t, J=Hz, 3H). MS M/z 410(M+1).

reactant | 5,6-Dimethoxybenzimidazole | 2.64 mmol, 470 mg | COC1=CC2=C(N=CN2)C=C1OC | C9H10N2O2
reactant | NaH | 2.8 mmol, 112 mg | [H-].[Na+]
reactant | 2-chloro-4-phenylthiazole-5-carboxylic acid ethyl ester | 2.2 mmol, 589 mg | C(C)OC(=O)C1=C(N=C(S1)Cl)C1=CC=CC=C1 | C12H10ClNO2S
reactant | Water | 15 ml | O | H2O
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
solvent | NMP | 1.5 ml | CN1CCCC1=O | C5H9NO
product | 2-(5,6-dimethoxy-benzoimidazol-1-yl)-4-phenylthiazole-5-carboxylic acid ethyl ester | 753 mg, Yield 84% | C(C)OC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)C2=CC=CC=C2 | C21H19N3O4S
